US05362906
Step 3: Diethyl [1-hydroxy-(E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl]phosphonate
To a solution of the diethyl [1-(t-butyldimethylsiloxy)-(E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl]phosphonate (55 mg, 0.113 mmol) in THF (1 ml), under argon, at 0° C. was added tetrabutylammonium fluoride (0.113 ml of a 1.0M solution in THF, 0.113 mmol), and the mixture stirred at 0° C. for 1 hr. The solvent was evaporated in vacuo and the residue chromatographed on silica gel eluted with ethylacetate:hexanes, (3:1, v:v) to afford the title compound (37 mg 88%) as an oil.

reactant | diethyl [1-(t-butyldimethylsiloxy)-(E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl]phosphonate | 0.113 mmol, 55 mg | O([Si](C)(C)C(C)(C)C)C(C\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)P(OCC)(OCC)=O | C26H51O4PSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | Diethyl [1-hydroxy-(E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl]phosphonate | 37 mg, 88% | OC(C\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)P(OCC)(OCC)=O | C20H37O4P
